US08133995B2
Step 2: Preparation of Ethyl 4-amino-5-(4-aminophenyl)-7-bromopyrrolo[2,1-f][1,2,4]triazine-6-carboxylate
Ethyl-4-amino-7-bromo-5-(4-nitrophenyl)pyrrolo[2,1-f][1,2,4]triazine-6-carboxylate (2.06 g, 5.07 mmol) was suspended in EtOH (30 mL) and treated with tin(II)chloride dihydrate (3.66 g. 16.2 mmol). The mixture was heated to reflux for 18 h. The mixture was concentrated then diluted with EtOAc and saturated NaHCO3 solution. The emulsion was filtered and the filtrate was transferred to a separatory funnel. The organic layer was washed with water and saturated NaCl solution, dried then (MgSO4) and concentrated to afford 1.5 g of the desired product as tan solid (79%). 1H-NMR (DMSO-d6) δ 8.00 (s, 1H), 7.00 (d, J=8.6, 1H), 6.62 (d, J=9.2, 3H), 5.40 (bd, 2H), 5.19 (bs, 2H), 4.05 (q, J=7.0, 2H), 1.03 (t, J=7.0, 3H); MS [M+H]+=376.0, 378.0; LCMS RT=2.02.

reactant | Ethyl-4-amino-7-bromo-5-(4-nitrophenyl)pyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | 5.07 mmol, 2.06 g | C(C)OC(=O)C=1C(=C2C(=NC=NN2C1Br)N)C1=CC=C(C=C1)[N+](=O)[O-] | C15H12BrN5O4
reactant | tin(II)chloride dihydrate | 16.2 mmol, 3.66 g | O.O.[Sn](Cl)Cl
solvent | EtOH | 30 mL | CCO | C2H6O
product | Ethyl 4-amino-5-(4-aminophenyl)-7-bromopyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | 1.5 g, 79% | NC1=NC=NN2C1=C(C(=C2Br)C(=O)OCC)C2=CC=C(C=C2)N | C15H14BrN5O2
